* vienna 3ph AVERAGED 30kW VLL=475 P=31088
RNEUT neut 0 10meg

BA a neut V=387.8358759406699*sin(6.2831853*50*time)
RGA a ag 0.02
LA ag al 130u ic=0
VSA al pha DC 0
BIA ifa 0 V=v(a,ag)*50
RFA ifa ifaf 1k
CFA ifaf 0 10n
BDA da 0 V=min(max(1-abs(v(a,neut))/(v(p)/2+1)+0.0044*(54*abs(sin(6.2831853*50*time))-abs(v(ifaf)))+0.004*(v(p)/2-v(mid))*(v(ifaf)/(abs(v(ifaf))+0.5)),0.02),0.98)
BSA sa 0 V=0.5*(1+v(ifaf)/(abs(v(ifaf))+0.2))
BVA pha 0 V=v(mid)+(1-v(da))*(v(sa)*(v(p)-v(mid))-(1-v(sa))*v(mid))
BIPA 0 p I=(1-v(da))*v(sa)*i(VSA)
BIMA 0 mid I=v(da)*i(VSA)
BINA 0 n I=(1-v(da))*(1-v(sa))*i(VSA)

BB b neut V=387.8358759406699*sin(6.2831853*50*time-2.0943951)
RGB b bg 0.02
LB bg bl 130u ic=0
VSB bl phb DC 0
BIB ifb 0 V=v(b,bg)*50
RFB ifb ifbf 1k
CFB ifbf 0 10n
BDB db 0 V=min(max(1-abs(v(b,neut))/(v(p)/2+1)+0.0044*(54*abs(sin(6.2831853*50*time-2.0943951))-abs(v(ifbf)))+0.004*(v(p)/2-v(mid))*(v(ifbf)/(abs(v(ifbf))+0.5)),0.02),0.98)
BSB sb 0 V=0.5*(1+v(ifbf)/(abs(v(ifbf))+0.2))
BVB phb 0 V=v(mid)+(1-v(db))*(v(sb)*(v(p)-v(mid))-(1-v(sb))*v(mid))
BIPB 0 p I=(1-v(db))*v(sb)*i(VSB)
BIMB 0 mid I=v(db)*i(VSB)
BINB 0 n I=(1-v(db))*(1-v(sb))*i(VSB)

BC c neut V=387.8358759406699*sin(6.2831853*50*time+2.0943951)
RGC c cg 0.02
LC cg cl 130u ic=0
VSC cl phc DC 0
BIC ifc 0 V=v(c,cg)*50
RFC ifc ifcf 1k
CFC ifcf 0 10n
BDC dc 0 V=min(max(1-abs(v(c,neut))/(v(p)/2+1)+0.0044*(54*abs(sin(6.2831853*50*time+2.0943951))-abs(v(ifcf)))+0.004*(v(p)/2-v(mid))*(v(ifcf)/(abs(v(ifcf))+0.5)),0.02),0.98)
BSC sc 0 V=0.5*(1+v(ifcf)/(abs(v(ifcf))+0.2))
BVC phc 0 V=v(mid)+(1-v(dc))*(v(sc)*(v(p)-v(mid))-(1-v(sc))*v(mid))
BIPC 0 p I=(1-v(dc))*v(sc)*i(VSC)
BIMC 0 mid I=v(dc)*i(VSC)
BINC 0 n I=(1-v(dc))*(1-v(sc))*i(VSC)
CP p mid 0.00235 ic=400
CN mid n 0.00235 ic=400
RBALP p mid 100k
RBALN mid n 100k
VN n 0 DC 0
RLOAD p n 20.59
.tran 5u 0.06 0 2u uic
.option method=gear reltol=1e-3 abstol=1e-6 vntol=1u itl4=100
.control
set filetype=ascii
run
wrdata pfc-475-full.out i(VSA) i(VSB) i(VSC) v(p) v(mid) v(pha)
quit
.endc
.end